US08791100B2
1. 3-[(S)-1-(3-Bromo-phenyl)-ethylamino]-propionic acid tert-butyl ester, INT 63
A solution of (S)-1-(3-bromo-phenyl)-ethylamine (0.3 g, 1.5 mmol) and acrylic acid tert-butyl ester (0.19 g, 1.50 mmol) in ethanol (1.3 mL) was stirred at 55° C. for 2.5 hours. The solvent was concentrated and the crude residue was purified by chromatography on silica gel (heptane/EtOAc).

reactant | (S)-1-(3-bromo-phenyl)-ethylamine | 1.5 mmol, 0.3 g | BrC=1C=C(C=CC1)[C@H](C)N | C8H10BrN
reactant | acrylic acid tert-butyl ester | 1.50 mmol, 0.19 g | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
product | 3-[(S)-1-(3-Bromo-phenyl)-ethylamino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN[C@@H](C)C1=CC(=CC=C1)Br)=O | C15H22BrNO2
